US07964608B2
3-Benzo[1,3]dioxol-5-yl-1-cyclopentyl-7-methoxy-1H-pyrimido[5,4-c]quinoline-2,4-dione (33 mg) was prepared from 4-cyclopentylamino-8-methoxy-quinoline-3-carboxylic acid ethyl ester (0.1 mmol) and 5-isocyanato-benzo[1,3]dioxole (0.5 mmol) following general procedure C. LCMS: m/z 432 [M+1]+.

reactant | 4-cyclopentylamino-8-methoxy-quinoline-3-carboxylic acid ethyl ester | 0.1 mmol | C(C)OC(=O)C=1C=NC2=C(C=CC=C2C1NC1CCCC1)OC | C18H22N2O3
reactant | 5-isocyanato-benzo[1,3]dioxole | 0.5 mmol | N(=C=O)C1=CC2=C(OCO2)C=C1 | C8H5NO3
product | 3-Benzo[1,3]dioxol-5-yl-1-cyclopentyl-7-methoxy-1H-pyrimido[5,4-c]quinoline-2,4-dione | 33 mg | O1COC2=C1C=CC(=C2)N2C(N(C1=C(C=NC=3C(=CC=CC13)OC)C2=O)C2CCCC2)=O | C24H21N3O5
